US08563575B2
A mixture of 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.053 g) and 2N HCl in EtOH (5.0 ml) was stirred at 60° C. for 10 h. After cooling to room temperature, the solvent was removed. The residue was recrystallized from EtOH—AcOEt to give 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride (0.030 g).

reactant | 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.053 g | CC1=C2C(=NC=C1)N(C(N2)=O)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C26H29N5O3Si
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one dihydrochloride | 0.030 g | Cl.Cl.N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C(NC=1C2=NC=CC1C)=O | InChI=1S/C20H15N5O2.2ClH/c1-12-10-11-21-18-17(12)24-20(26)25(18)13-6-8-14(9-7-13)27-19-22-15-4-2-3-5-16(15)23-19;;/h2-11H,1H3,(H,22,23)(H,24,26);2*1H
